US06494923B2
Method for Preparing Ammonium-4-(4-(2,4-dimethoxybenzylidene)-3-methyl-5-oxo-4,5-dihydropyrazol-1-yl)benzenesulfonate (12a)
2.55 g of 5-hydroxy-3-methyl-1-(4-sulfophenyl)-1H-pyrazole, 1.83 g 2,4-dimethoxybenzaldehyde and 0.8 g of ammonium acetate in 25 mL of ethanol were heated at 70° C. After 5 hours, the mixture was cooled and filtered.

reactant | 5-hydroxy-3-methyl-1-(4-sulfophenyl)-1H-pyrazole | 2.55 g | OC1=CC(=NN1C1=CC=C(C=C1)S(=O)(=O)O)C | C10H10N2O4S
reactant | 2,4-dimethoxybenzaldehyde | 1.83 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | ammonium acetate | 0.8 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | Ammonium 4-(4-(2,4-dimethoxybenzylidene)-3-methyl-5-oxo-4,5-dihydropyrazol-1-yl)benzenesulfonate | [NH4+].COC1=C(C=C2C(=NN(C2=O)C2=CC=C(C=C2)S(=O)(=O)[O-])C)C=CC(=C1)OC | InChI=1S/C19H18N2O6S.H3N/c1-12-17(10-13-4-7-15(26-2)11-18(13)27-3)19(22)21(20-12)14-5-8-16(9-6-14)28(23,24)25;/h4-11H,1-3H3,(H,23,24,25);1H3
